US07622501B2
Step 2: (2Z)-4-[({[4,5-bis(nitrooxy)pentyl]oxy}carbonyl)oxy]-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoic acid
To a solution of 4.5 g of 4,5-bis(nitrooxy)pentyl (2Z)-4-hydroxy-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-yl carbonate in 50 mL of dichloromethane, 4.13 g of Dess-Martin reagent was added and the resulted mixture was stirred at 25° C. for 45 min. Then 250 uL of water was added and the mixture was stirred at RT for 15 min. Then the mixture was filtered through a pad of silica gel and evaporated. The crude was dissolved in a mixture of THF and t-BuOH (25 mL/25 mL). To this solution was added 6.8 mL of 2-methyl-2-butene followed by the addition of 20 mL of phosphoric acid (1.2M soln) and 20 mL of NaClO2 (1M soln). The resulted mixture was stirred at RT for 30 min. The organic phase was separated and the aqueous phase was extracted with EtOAc. The organic phases were combined, dried over Na2SO4, filtered, and then evaporated. The crude was purified by flash chromatography to afford 2.6 g of the titled compound as white solid. 1H NMR (acetone-d6, 500 MHz): δ 7.77 (d, 2H), 7.44 (d, 2H), 7.17 (s, 3H), 7.12 (t, 2H), 5.51 (s, 1H), 5.35 (s, 2H), 5.00 (dd, 1H), 4.72 (dd, 1H), 4.13-4.10 (m, 2H), 3.06 (s, 3H), 1.87-1.80 (m, 4H).

reactant | 4,5-bis(nitrooxy)pentyl (2Z)-4-hydroxy-2-[4-(methylsulfonyl)phenyl]-3-phenylbut-2-en-1-yl carbonate | 4.5 g | C(OCCCC(CO[N+](=O)[O-])O[N+](=O)[O-])(OC\C(=C(/CO)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C23H26N2O12S
reactant | Dess-Martin reagent | 4.13 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | water | 250 uL | O | H2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (2Z)-4-[({[4,5-bis(nitrooxy)pentyl]oxy}carbonyl)oxy]-3-[4-(methylsulfonyl)phenyl]-2-phenylbut-2-enoic acid | 2.6 g | [N+](=O)([O-])OC(CCCOC(=O)OC\C(=C(/C(=O)O)\C1=CC=CC=C1)\C1=CC=C(C=C1)S(=O)(=O)C)CO[N+](=O)[O-] | C23H24N2O13S
